Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Quinolones
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 ___ woman with atrial fibrillation s/p dual lead pacemaker, 
epilepsy on keppra, who presented on ___ after an event 
concerning for seizure.  She mentioned that she was walking down 
the stairs and did not feel well/felt off right before she fell. 
Denied feeling lightheaded, was only alone for 10 seconds, and 
was later found face down by her family. Per collateral, eyes 
rolled back, unresponsive, foaming at mouth. No convulsions, no 
tongue biting, no bowel/bladder incontinence. Lasted for a few 
minutes and post-ictally, was confused for about ___ minutes 
and persistently remained lethargic/tired aftewards. Reported 
taking Keppra a couple hours later than usual prior to event.  
In the ED, CT head no acute intracranial bleed for scalp 
hematoma. CT C-spine without acute abnormalities. CT chest 
however revealed multiple fractures including left ___, 
___, 10th ribs. She was admitted for pain control for 
fractures.  
EP evaluated pacemaker, found in ___ that she had 3 
ventricular high rates/atrial fibrillation. On the day of 
admission, she had 1 ventricular high rate consistent with 
myopotentials, nonspecific but no arrhythmias noted. Neurology 
evaluated patient and deemed likely seizure that brought patient 
in.  

 
Past Medical History:
-Seizures
-Atrial fibrillation on Warfarin
-?Tachy-brady syndrome s/p PPM
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
============================
Vitals: 
97.0 88 184/109 18 95% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Breathing comfortably on room air
Cardiac: RRR
Abdomen: soft
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

DISCHARGE PHYSICAL EXAM:
============================
T=97.4F
BP=168 / 81mmHg
HR=76x'
RR=18x'
SpO2=96% RA
General: pleasant woman, ___ speaker,  alert and oriented 
x3, breathing comfortably in room air  
Head: left scalp hematoma palpable, no active bleeding noted  
Neck: supple, JVP 6cm at 30 degrees
Cardiac: irregular rhythm, normal s1 and s2, no s3 or s4, no 
murmurs auscultated  
Lungs: Good air movement, no wheezing. Diffuse crackles are 
heard throughout the left lung.   
Abdomen: bowel sounds present, NTND  
Thorax: no hematoma noted on left side, no pain on palpation 
along left rib cage, however pain with movement is present  
Extremities: warm, no edema. Erythema in left elbow with mild 
edema.  
Neuro: pupils reactive to light, right pupil slightly oval 
shaped, pupils roughly equal in size, EOMI, CN ___ intact, can 
walk without evidence of balance troubles, grip/bicep/tricep 
strength ___ bilaterally but with some limitation on left side 
due to pain   
 
Pertinent Results:
Admission Labs:
___ 12:17AM BLOOD WBC-7.0 RBC-4.58 Hgb-13.2 Hct-40.9 MCV-89 
MCH-28.8 MCHC-32.3 RDW-12.8 RDWSD-42.0 Plt ___
___ 12:17AM BLOOD Neuts-72.7* Lymphs-17.6* Monos-6.4 
Eos-1.3 Baso-0.7 Im ___ AbsNeut-5.07 AbsLymp-1.23 
AbsMono-0.45 AbsEos-0.09 AbsBaso-0.05
___ 12:17AM BLOOD ___ PTT-35.3 ___
___ 12:17AM BLOOD Glucose-157* UreaN-22* Creat-0.9 Na-138 
K-3.5 Cl-100 HCO3-25 AnGap-17
___ 12:17AM BLOOD Calcium-8.9 Phos-2.0* Mg-2.0

Discharge Labs:
___ 07:05AM BLOOD WBC-6.6 RBC-4.48 Hgb-13.1 Hct-39.9 MCV-89 
MCH-29.2 MCHC-32.8 RDW-13.0 RDWSD-42.3 Plt ___
___ 07:05AM BLOOD Glucose-85 UreaN-23* Creat-1.0 Na-143 
K-4.3 Cl-105 HCO3-27 AnGap-15
___ 07:05AM BLOOD Calcium-8.6 Phos-2.5* Mg-2.1

IMAGING:

CT HEAD ___:
Moderate left parietal scalp soft tissue swelling, associated 
hematoma.
No fracture or acute intracranial abnormality.

CT C-SPINE ___:
1. No evidence of acute traumatic injury to the cervical spine.
2. Nonspecific diffuse sclerosis of the C6 vertebral body and 
posterior
elements.  While not appearing to be an acute abnormality, 
correlation with prior oncologic and medical history is 
recommended.  Given the and involvement of the entire vertebral 
body and the posterior elements, metastatic disease although 
appears unlikely needs to be excluded by correlation with any 
prior imaging or correlation with medical history.  The 
appearance would likely be due to hemangioma or Paget's disease.

CT CHEST ___:
1.  Acute fractures of the left fourth, fifth, sixth, seventh, 
and tenth ribs. Small subpleural hematoma adjacent to the fourth 
rib fracture.
2.  Mild cardiomegaly.
3.  Small left pleural effusion.
4.  Moderate bibasilar atelectasis.

 
Brief Hospital Course:
Transitional Issues:
===============================
-Warfarin was held while she was in the hospital and restarted 
upon discharge at home dosing. PCP to obtain INR on ___ and 
titrate warfarin dosing accordingly. 
-Her Levetiracetam (Keppra) dose was increased to 750mg PO QAM 
and 1000 mg PO QPM. She will have neurology follow up as 
scheduled above. 
-Her pacemaker was interrogated and the battery was found to be 
nearing the end of its life. Patient should follow-up with her 
outpatient cardiologist ASAP for generator change consideration
-TTE during admission showed mild symmetric left ventricular 
hypertrophy with mild global hypokinesis with marked visual 
dyssynchrony. Mild global right ventricular systolic 
dysfunction. No LVOT obstruction at rest or with valsalva. 
-Carotid series performed, 40% stenosis of right ICA. Recommend 
close monitoring of blood pressure in the outpatient setting and 
initiation of anti-HTN as indicated for stroke prevention. 
Patient continued on statin pre admission medication. 
-She will need follow up with Dr. ___ outpatient 
neurologist, in ___ weeks post discharge 

Ms. ___ is a ___ year old woman with a PMH of epilepsy on 
Keppra, atrial fibrillation on Warfarin who presented after 
falling, most likely due to seizure, and was found to have 
multiple rib fractures with sub-pleural hematoma and parietal 
scalp hematoma on CT imaging. She was initially admitted to the 
surgery team for close monitoring in the setting of her 
traumatic injuries. Pain was managed. She was evaluated by 
cardiology and neurology. Highest suspicion for fall etiology 
was seizure and home Keppra was uptirtated. Pacemaker was 
interrogated, found to be functioning but near the end of 
battery life. She was transferred to the medicine service. She 
was cleared for discharge by ___. She will resume home warfarin 
for AF upon discharge without need for bridging given low CHADS 
risk profile. She will have follow up INR with PCP next week for 
dose titration. She will also have follow up with cardiology for 
pacemaker battery replacement and neurology for management of 
her anti-epileptics. 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 750 mg PO BID 
2. Digoxin 0.375 mg PO DAILY 
3. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
4. Simvastatin 30 mg PO QPM 
5. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
6. Warfarin 3 mg PO 4X/WEEK (___) 
7. Warfarin 2 mg PO 3X/WEEK (___) 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*24 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*20 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth every 8 hours as needed 
for severe pain Disp #*5 Capsule Refills:*0 
4.  Senna 8.6 mg PO QHS 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth at night Disp 
#*10 Tablet Refills:*0 
5.  LevETIRAcetam 750 mg PO QAM 
RX *levetiracetam [Keppra] 750 mg 1 tablet(s) by mouth daily in 
the morning Disp #*30 Tablet Refills:*0 
6.  LevETIRAcetam 1000 mg PO QPM 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth once a 
day in the evening Disp #*30 Tablet Refills:*0 
7.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
8.  Clobetasol Propionate 0.05% Cream 1 Appl TP BID  
9.  Digoxin 0.375 mg PO DAILY  
10.  Simvastatin 30 mg PO QPM  
11.  Warfarin 3 mg PO 4X/WEEK (___)  
12.  Warfarin 2 mg PO 3X/WEEK (___)  
13.Outpatient Lab Work
ICD10: I48.1
Please draw INR on ___ and fax results to 
Name: ___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Fractures of the left  ___, and 10th ribs 
Sub-Pleural Hematoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___, 

You were admitted to ___ 
because you had a fall. We think that your fall was due to a 
seizure, similar to the ones that you have had before. However, 
this was a pretty bad fall, because it caused several fractures 
in your ribs. You were seen by our trauma surgeons and they 
think that you do not need surgery for the rib fractures. We 
also did some tests that showed that your lungs were not damaged 
significantly and that you did not experience bleeding inside 
your brain.

* Your injury caused left-sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain. 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication makes you very drowsy you can take only half 
of the dose and notify your physician.  
* Pneumonia (a type of lung infection) is a complication of rib 
fractures.  In order to decrease your risk of this you must use 
your incentive spirometer 4 times every hour while you are 
awake.  This will help expand the small airways in your lungs 
and assist in coughing up secretions that pool in the lungs. 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.  
* You can use ice packs or heating pads for short periods to 
help with the pain. 
* Narcotic pain medication can cause constipation, so you should 
take a stool softener twice daily and increase your fluid and 
fiber intake if possible. 
* Do NOT smoke 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.  
* Return to the Emergency Room right away if you feel short of 
breath, if your pain is increasing, or if you have a crackling 
sensation around your ribs.
* Please make sure that you schedule a follow-up appointment 
with your primary care doctor once you leave the hospital.
* Please take all your medications as prescribed.
Thank you for allowing us to participate in your care.
Your ___ care team.
 
Followup Instructions:
___